US09169254B2
A mixture of (S)-3-(4-bromo-3-methyl-phenylamino)-propane-1,2-diol (202 mg, 0.777 mmol), diethyl carbonate (3 ml), sodium methoxide (28% in MeOH, 0.160 ml) and MeOH (4 ml) was stirred at 130° C. overnight. The reaction mixture was treated with saturated NH4Cl and H2O and extracted with AcOEt (×2). The organic layers were combined and sequentially washed with H2O and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/AcOEt) to give (R)-3-(4-bromo-3-methyl-phenyl)-5-hydroxymethyl-oxazolidin-2-one (170 mg, 77%).

reactant | (S)-3-(4-bromo-3-methyl-phenylamino)-propane-1,2-diol | 0.777 mmol, 202 mg | BrC1=C(C=C(C=C1)NC[C@@H](CO)O)C | C10H14BrNO2
reactant | diethyl carbonate | 3 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium methoxide | 0.160 ml | C[O-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | H2O | O | H2O
solvent | MeOH | 4 ml | CO | CH4O
product | (R)-3-(4-bromo-3-methyl-phenyl)-5-hydroxymethyl-oxazolidin-2-one | 170 mg, 77% | BrC1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)C | C11H12BrNO3
